US07399759B2
tert-Butyl 3-[2-cyano-6-(4-oxo-4H-1,3-benzothiazin-2-yl)-3-pyridyl]propanoate
tert-Butyl 3-(2,6-dicyano-3-pyridyl)propanoate (0.31 g, 1.20 mmol) and methyl thiosalicylate (0.40 g, 2.40 mmol) were dissolved in toluene (30 ml), and triethylamine (0.75 ml, 5.41 mmol) was added thereto. The mixture was refluxed for 18 hrs, and the solvent was evaporated. The residue was washed with hexane-ethyl acetate to give the titled compound (0.12 g, 25%) as white amorphous solid.

reactant | tert-Butyl 3-(2,6-dicyano-3-pyridyl)propanoate | 1.20 mmol, 0.31 g | C(#N)C1=NC(=CC=C1CCC(=O)OC(C)(C)C)C#N | C14H15N3O2
reactant | methyl thiosalicylate | 2.40 mmol, 0.40 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | triethylamine | 5.41 mmol, 0.75 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | tert-Butyl 3-[2-cyano-6-(4-oxo-4H-1,3-benzothiazin-2-yl)-3-pyridyl]propanoate | 0.12 g, 25% | C(#N)C1=NC(=CC=C1CCC(=O)OC(C)(C)C)C=1SC2=C(C(N1)=O)C=CC=C2 | C21H19N3O3S
